US08293768B2
To a solution of 2-bromo-4-methylthiazole-5-carboxylic acid (2.00 g, 9.00 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.41 g, 12.6 mmol) and N,N-diisopropylethylamine (4.67 mL, 27.0 mmol) in tetrahydrofuran (40 mL) was added 1-hydroxybenzotriazole (1.70 g, 12.6 mmol). The resulting mixture was stirred at ambient temperature for 30 minutes and 4-fluorobenzylamine (1.43 mL, 12.6 mmol) was added. The reaction mixture was kept stirring at ambient temperature for 17 hours, then concentrated in vacuo. The residue was dissolved ethyl acetate and washed with water and brine. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography to afford 2-bromo-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide in 81% yield (2.38 g): 1H NMR (300 MHz, CDCl3) δ 7.30-7.26 (m, 2H), 7.05-7.00 (m, 2H), 5.99-5.87 (m, 1H), 4.54 (d, J=5.7 Hz, 2H), 2.63 (s, 3H).

reactant | 2-bromo-4-methylthiazole-5-carboxylic acid | 9.00 mmol, 2.00 g | BrC=1SC(=C(N1)C)C(=O)O | C5H4BrNO2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 12.6 mmol, 2.41 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 27.0 mmol, 4.67 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxybenzotriazole | 12.6 mmol, 1.70 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-fluorobenzylamine | 12.6 mmol, 1.43 mL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-bromo-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | 81% yield | BrC=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F | C12H10BrFN2OS
